### PR TITLE
Add Lean boilerplate / CI and a formalization of the binding-signature balance argument

### PR DESCRIPTION
**Pull request by daira**
Make a start on bringing formal-verification work into this repo, alongside the mdbook.

Formalizes the balance soundness of the Zcash binding signature (protocol spec §4.13 Sapling / §4.14 Orchard) in Lean 4. This is done over an abstract `F`-module so it applies to both the Pallas (Orchard) and Jubjub (Sapling) value-commitment groups. (The inclusion of Sapling here adds very little extra code.)

The mdbook under `book/` is untouched. The Lean lives under `Zcash/` (package and lib both `Zcash`). Both CIs are path-gated via a gate-job pattern: the `Lean` and book workflows run their heavy job only on relevant changes, but still report a required check when the build is skipped.

## Commits

1. Lean project scaffolding (lakefile, pinned toolchain `v4.30.0-rc2`, Mathlib manifest).
2. Lean CI via `leanprover/lean-action` (toolchain + Mathlib olean cache + `lake build`), plus the gate-job path-gating of both CIs.
3. onwards — the binding-signature balance argument, cherry-picked from the [original `zcash-lean` branch](https://github.com/daira/zcash-lean/pull/2) (history preserved), then tidied; the two pools' no-overflow bounds unified through a shared helper; and the scalar field orders imported from CompElliptic. The final commit restates the balance theorems as explicit DLR reductions (see below).

## The argument (`Zcash/Security/BindingSignature/`)

- `Balance.lean` — the shared algebraic core (its lemmas are mapped to the spec in the table below). Binding is modelled as a **reduction**: a non-balancing verifying bundle exhibits an explicit nontrivial relation between the value base $\mathcal{V}$ and randomness base $\mathcal{R}$ (`HasNontrivialRelation`). So each balance theorem concludes `... = 0 ∨ HasNontrivialRelation V R` — it balances, or it solves the discrete-log relation problem in the relevant group. The integer no-overflow argument reduces to a shared `natAbs_lt_of_vSumBound` (`vSumBound N = N·(2^64−1) + 2^63`), instantiated per pool.
- `Orchard.lean` / `Sapling.lean` — the per-pool no-overflow arguments, each a thin wrapper over `natAbs_lt_of_vSumBound`:
  - **Orchard**: each action's signed net value `v = v_spend − v_output ∈ [−2^64+1, 2^64−1]`; the action count is bounded directly by the consensus rule `n ≤ 2^16−1`.
  - **Sapling**: the counts are derived from the 2 MB transaction-size limit against the minimum description sizes (summed field-by-field, over v4 and v5); `|vSum|` is bounded by the uniform per-element magnitude `|v| ≤ 2^64−1` (as Orchard's signed values are — by concatenating the spends with the negated outputs) rather than the spec's tighter asymmetric range, which suffices since any bound below the field order does.
  - The Pallas and Jubjub scalar field orders are imported from [CompElliptic](https://github.com/daira/CompElliptic) (daira/CompElliptic#1), where they carry machine-checked Lucas/Pratt primality certificates. The `*VSumBound_lt_*ScalarOrder` theorems  instantiate each bound at the concrete field.

## Relation to the spec (§4.13 / §4.14)

The development follows the spec's pencil-and-paper argument step for step:

| This formalization | Spec §4.13 / §4.14 |
|---|---|
| `V`, `R` | value base $\mathcal{V}$, randomness base $\mathcal{R}$ |
| `valueCommit V R v rcv` | $\mathsf{ValueCommit}_{\mathsf{rcv}}(\mathsf{v}) = [\mathsf{v}] \mathcal{V} + [\mathsf{rcv}]\mathcal{R}$ |
| `bindingVK` / `bsk` | $\mathsf{bvk}$, the binding validating key / $\mathsf{BindingPrivate}$, the signing key |
| `bindingVK_decomp` | $\mathsf{bvk} = [\mathsf{v_{sum}}] \mathcal{V} + [\mathsf{bsk}]\mathcal{R}$ |
| `hExtract : bvk = bsk • R` | a binding signature proves knowledge of $\mathsf{bsk} = \mathsf{dlog}_{\mathcal{R}}\,\mathsf{bvk}$ |
| `A` (stage 1) / `vSum` (stage 2) | $\mathsf{v_{sum}} = \sum \mathsf{v_{in}} - \sum \mathsf{v_{out}} - \mathsf{vBalance}$ |
| `HasNontrivialRelation` | a nontrivial DL relation $[a] \mathcal{V} + [b] \mathcal{R} = \mathcal{O}$, $(a,b) \neq (0,0)$ — a DLR solution |
| `relation_of_imbalance` → `value_coeff_zero_reduction` → `bundle_mod_balances_reduction` | $\mathsf{v_{sum}} \neq 0 \pmod r$ *exhibits* a DLR solution |
| `intBalance_eq_zero_of_lt` | $\mathsf{v_{sum}}$ does not overflow $\mathsf{ValueCommitType}$ ⟹ $\mathsf{v_{sum}} = 0$ over $\mathbb{Z}$ or a DLR solution |

The two stages are the spec's two steps: the algebraic core gives balance modulo the scalar-field order (or, in the reduction's other branch, a DLR solution), and the no-overflow lift upgrades it to integer balance. The whole development is over an abstract `F`-module, which is instantiated at `ZMod r` for the Pallas and Jubjub scalar fields in the `Orchard` / `Sapling` modules. RedDSA extractability is assumed (`hExtract`).

## Status

Builds green on Lean `v4.30.0-rc2` / Mathlib (pinned), with CompElliptic pinned by git rev.

The per-pool capstones `orchard_bundle_balances_reduction` / `sapling_bundle_balances_reduction` wire the `*_natAbs_lt` bounds into `bundle_integer_balances_reduction` end-to-end, so each consumes only the value-type hypotheses and RedDSA extractability (`hExtract`), concluding the reduction `vSum = 0 ∨ HasNontrivialRelation V R`. There is no information-theoretic binding assumption (it would be false in a prime-order group).

Remaining: decide what framework we will use to model the AGM, and tie it into that framework.

🤖 Generated with [Claude Code](https://claude.com/claude-code)

### CODE REVIEW

**Review by daira — COMMENTED** [review]
Self-review ACK

File: Zcash/Security/BindingSignature/Orchard.lean [hunk 1]
```diff
@@ -0,0 +1,68 @@
...
+This module instantiates the generic `natAbs_lt_of_abs_le` from `Balance` at those concrete bounds,
+discharging the `hbound` hypothesis of `bundle_integer_balances` for Orchard.
+-/
+
+namespace Zcash.Security.BindingSignature
+
+/-- The Pallas scalar field order `r_ℙ` — the order of the Pallas group, which is the scalar field of
+the Orchard value commitment (spec § Pallas and Vesta). Imported from `CompElliptic.Fields.Pasta`,
+where it carries a Lucas/Pratt primality certificate. -/
+@[reducible] def pallasScalarOrder : ℕ := CompElliptic.Fields.Pasta.PALLAS_SCALAR_CARD
```
Comment (TalDerei) [inline Zcash/Security/BindingSignature/Orchard.lean:22]: noticed a typo in the spec; it specifies the prime order of the jubjub curve rather than pallas under the orchard section.

Image

File: Zcash/Security/BindingSignature/Balance.lean [hunk 2]
```diff
@@ -0,0 +1,307 @@
...
+## How binding is expressed (and why not as "no relation exists")
+
+In a prime-order group, `V` and `R` are *always* discrete-log-related — a nontrivial `(a,b)` with
+`a • V + b • R = 0` exists; you simply cannot find it. So the information-theoretic statement
+"the only relation is trivial" is *false* in the group setting and must not be used as the
+binding hypothesis. Instead we phrase binding as a reduction:
+
+* `§ Binding reduction` below proves, with no cryptographic hypothesis, that a non-balancing
+  verifying bundle **exhibits** an explicit nontrivial relation between `V` and `R`
+  (`relation_of_imbalance`), equivalently the discrete log `dlog_R V` (`rand_log_of_imbalance`).
```
Comment (TalDerei) [inline Zcash/Security/BindingSignature/Balance.lean]: ACK – modeling the binding argument as a reduction rather than assuming no nontrivial DLOG relation exists.

File: Zcash/Security/BindingSignature/Balance.lean [hunk 3]
```diff
@@ -0,0 +1,307 @@
...
+
+The range / no-overflow lift from field balance to integer balance is already built (`§ Integer
+balance` below: `intBalance_eq_zero_of_lt`, discharged per pool by `orchard_natAbs_lt` /
+`sapling_natAbs_lt` from the 64-bit value-type ranges). What remains is cryptographic and
+computational, not algebraic:
+
+## Assumptions
+
+* **RedDSA extractability** (`bvk = bsk • R` from a verifying binding signature) — assumed, not
+  proved (its proof needs a random oracle + forking); supplied as the `hExtract` hypothesis.
```
Comment (TalDerei) [inline Zcash/Security/BindingSignature/Balance.lean:46]: ACK — i think this is the right abstraction boundary (treating `hExtract` as an assumption). formalizing RedDSA only matters if we want to prove extractability itself; as you noted for the balance argument here, we can black box `bvk = [bsk]R`.

File: Zcash/Security/BindingSignature/Balance.lean [hunk 4]
```diff
@@ -0,0 +1,307 @@
...
+Such a relation always exists in the group; the content is that imbalance *produces* one.
+Under hardness of the discrete-log relation problem, that cannot happen, so the bundle balances. -/
+theorem relation_of_imbalance (V R bvk : M) (A B bsk : F)
+    (hA : A ≠ 0)
+    (hExtract : bvk = bsk • R) (hSum : bvk = A • V + B • R) :
+    A ≠ 0 ∧ A • V + (B - bsk) • R = 0 := by
+  refine ⟨hA, ?_⟩
+  rw [smul_value_eq_smul_rand V R bvk A B bsk hExtract hSum, ← add_smul]
+  have hc : (bsk - B) + (B - bsk) = (0 : F) := by ring
+  rw [hc, zero_smul]
```
Comment (TalDerei) [inline Zcash/Security/BindingSignature/Balance.lean:86]: I really like the way this is modeled! `relation_of_imbalance` proves the counterfactual, and we claim DLR hardness in the docs to close it.

File: Zcash/Security/BindingSignature/Balance.lean [hunk 5]
```diff
@@ -0,0 +1,307 @@
...
+  have hVR := smul_value_eq_smul_rand V R bvk A B bsk hExtract hSum
+  have h : A⁻¹ • (A • V) = A⁻¹ • ((bsk - B) • R) := by rw [hVR]
+  rwa [smul_smul, smul_smul, inv_mul_cancel₀ hA, one_smul] at h
+
+/-! ### Abstract model
+
+The information-theoretic binding predicate below is satisfiable only when `V` and `R` are
+genuinely independent — e.g. in a free `F`-module of rank ≥ 2. It validates the algebra of the
+reduction but is *false* in a prime-order group and is never instantiated there; the group uses
+`relation_of_imbalance` and DLR hardness instead. -/
```
Comment (TalDerei) [inline Zcash/Security/BindingSignature/Balance.lean]: "the group uses `relation_of_imbalance`", however `relation_of_imbalance` / `rand_log_of_imbalance` are never called by any theorem (currently only referenced in the docs). is this some forward scaffolding that will be wired in, or will it stay proven in isolation?

**Review by TalDerei — COMMENTED** [review]
some observations; went through and cross referenced against 4.13/4.14 in the spec.

File: Zcash/Security/BindingSignature/Orchard.lean (hunk 1 above)
Comment (daira) [reply Zcash/Security/BindingSignature/Orchard.lean:22]: You are correct, thanks. Will fix.

File: Zcash/Security/BindingSignature/Balance.lean (hunk 3 above)
Comment (daira) [reply Zcash/Security/BindingSignature/Balance.lean:46]: I do want to prove RedDSA is strongly unforgeable (in the correct sense for a key-rerandomizable scheme); but that's a separate piece. Ariel formally proved the argument we use for the key-rerandomization part of Spend authority at some point for Sapling IIRC, but I don't remember whether that was fully accurate to RedDSA. I'll look at it but I expect we'll want to redo the model to make what we're proving strong enough and precise enough.

File: Zcash/Security/BindingSignature/Balance.lean (hunk 5 above)
Comment (daira) [reply Zcash/Security/BindingSignature/Balance.lean]: Well spotted. I'll put this back in draft until I have time to clean this up.

File: Zcash/Security/BindingSignature/Orchard.lean (hunk 1 above)
Comment (daira) [reply Zcash/Security/BindingSignature/Orchard.lean:22]: This will be done in zcash/zips#1300.

File: Zcash/Security/BindingSignature/Balance.lean [hunk 6]
```diff
@@ -87,63 +85,52 @@ theorem relation_of_imbalance (V R bvk : M) (A B bsk : F)
...
-theorem rand_log_of_imbalance (V R bvk : M) (A B bsk : F) (hA : A ≠ 0)
+/-- A non-balancing verifying bundle yields the discrete log of `V` base `R`, namely
+`dlog_R V = A⁻¹ (bsk − B)`. This is just a more explicit way of saying `relation_of_imbalance`;
+it is the latter that is wired into the balance reduction below. -/
+theorem imbalance_yields_discrete_log (V R bvk : M) (A B bsk : F) (hA : A ≠ 0)
     (hExtract : bvk = bsk • R) (hSum : bvk = A • V + B • R) :
     V = (A⁻¹ * (bsk - B)) • R := by
   have hVR := smul_value_eq_smul_rand V R bvk A B bsk hExtract hSum
   have h : A⁻¹ • (A • V) = A⁻¹ • ((bsk - B) • R) := by rw [hVR]
   rwa [smul_smul, smul_smul, inv_mul_cancel₀ hA, one_smul] at h
```
Comment (TalDerei) [inline Zcash/Security/BindingSignature/Balance.lean:96]: nit; dangling theorem and should be documented as such at least.

File: Zcash/Security/BindingSignature/Balance.lean [hunk 7]
```diff
@@ -0,0 +1,299 @@
...
+* **RedDSA extractability** (`bvk = bsk • R` from a verifying binding signature) — assumed, not
+  proved (its proof needs a random oracle + forking); supplied as the `hExtract` hypothesis.
+* **DLR hardness** — the assumption the reduction discharges against to conclude actual balance
+  (the discrete-log relation problem, tightly equivalent to DL).
+
+## Not yet built
+
+* **The AGM / DLR wrapper** — the computational / AGM layer that consumes `relation_of_imbalance`
+  against DLR hardness.
+-/
```
Comment (TalDerei) [inline Zcash/Security/BindingSignature/Balance.lean:54]: ACK – `relation_of_imbalance` reduction is wired in but not yet discharged, will research AGM impl in ArkLib as a (plausible?) host.

File: Zcash/Security/BindingSignature/Balance.lean (hunk 3 above)
Comment (TalDerei) [reply Zcash/Security/BindingSignature/Balance.lean:46]: referencing https://github.com/zcash/ironwood/pull/4#discussion_r3415528911, can we add a TODO comment if proving extractability  is an expected follow-up?

**Review by TalDerei — APPROVED** [review]
some minor doc nits, otherwise looks good!

File: Zcash/Security/BindingSignature/Balance.lean (hunk 3 above)
Comment (daira) [reply Zcash/Security/BindingSignature/Balance.lean:46]: I'll do that in a follow-up PR.

File: Zcash/Security/BindingSignature/Balance.lean (hunk 6 above)
Comment (daira) [reply Zcash/Security/BindingSignature/Balance.lean:96]: Eh, it's a useful thing to prove in its own right, and the documentation almost says it's dangling already.
